US06414179B1
Methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-[(4-tert-butoxycarbonylphenyl)methoxy]propionate
A solution of methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-hydroxypropionate (300 mg, 0.97 mmol) in THF (2 ml) at −78° C. was treated with a suspension of sodium hydride (60%, 40 mg, 1 mmol) in THF (1 ml). The mixture was stirred at −40° C. for 15 minutes, then tetrabutyl ammonium iodide (20 mg) and tert-butyl 4-bromomethylbenzoate (270 mg, 0.97mmol) dissolved in THF (1 ml) were added. After the cooling bath was removed, the mixture was stirred for 16 hours, quenched with saturated aqueous ammonium chloride and diluted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane:ethyl acetate=85:15) to give the title material (200 mg, 41%) as a colorless oil.

reactant | methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-hydroxypropionate | 0.97 mmol, 300 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(C(=O)OC)O | C16H26O4Si
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | tert-butyl 4-bromomethylbenzoate | 0.97mmol, 270 mg | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | tetrabutyl ammonium iodide | 20 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-[(4-tert-butoxycarbonylphenyl)methoxy]propionate | 200 mg, 41% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(C(=O)OC)OCC1=CC=C(C=C1)C(=O)OC(C)(C)C | C28H40O6Si
